US05731364
To a 3-necked 1 L round bottom flask equipped with a still head was added phenylmagnesium bromide (3 M in diethyl ether, 142 ml, 0.426 mol) followed by dry benzene (150 ml). The flask was connected to a water aspirator and the diethyl ether removed under vacuo by gently heating. Additional benzene (150 ml) was added and the solution brought to a gentle reflux under nitrogen. A solution of phenyl sulfoxide (17.23 g, 85.2 mmol) in benzene (100 ml) was added dropwise over 1.5 hours. Once the addition was complete, the reaction mixture was heated at a gentle reflux for 3 hours. The reaction mixture was cooled (ice bath temperature) while adding a solution of hydrobromic acid (25%, 200 ml). The resulting biphasic mixture was stirred at room temperature overnight. After separation of the layers, the organic layer extracted were combined and extracted with dichloromethane (200 ml), dried (MgSO4 ) and concentrated in vacuo to give the crude product as an off-white solid (14.50 g). The solid was taken up in the minimum mount of warm dichloromethane (100 ml) and four times the volume of ether added to precipitate the salt. The suspension was cooled in an ice bath for 1 hour prior to collecting the salt and washing with ether. In this way, triphenylsulfonium bromide was isolated as a white solid (14.40 g, 49%).

reactant | phenylmagnesium bromide | 0.426 mol, 3 M, 142 ml | C1(=CC=CC=C1)[Mg]Br
reactant | water | O | H2O
reactant | phenyl sulfoxide | 85.2 mmol, 17.23 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | hydrobromic acid | 200 ml | Br | BrH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | triphenylsulfonium bromide | [Br-].C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H15S.BrH/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;/h1-15H;1H/q+1;/p-1
